US04318912
A solution of benzyl 3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (41 mg) in anhydrous THF (0.5 ml) is added dropwise over 5 mins to a stirring solution of lithium diisopropylamide (from 15.5 μl of diisopropylamine and 0.07 ml of 1.6 N BuLi) in anhydrous THF (1.5 ml) at -78°. The resulting solution is stirred at -78° for 10 mins and then treated with acetaldehyde (56 μl). After 5 more mins, saturated aqueous NH4Cl solution (1.5 ml) is added and the mixture is allowed to warm to room temperature. The mixture is diluted with ethyl acetate (20 ml), washed with H2O and brine, dried with MgSO4, filtered, and evaporated in vacuo to provide benzyl 6-(1-hydroxyethyl)-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]-hept-2-en-7-one-2-carboxylate as a mixture of diastereomers.

reactant | benzyl 3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 41 mg | C=1(C(=CC=CC1)S(=O)(=O)OC1=C(N2C(CC2C1)=O)C(=O)OCC1=CC=CC=C1)C | C21H19NO6S
reactant | lithium diisopropylamide | 1.6 N, 15.5 μl | C(C)(C)[N-]C(C)C.[Li+]
reactant | acetaldehyde | 56 μl | C(C)=O | C2H4O
reactant | NH4Cl | 1.5 ml | [NH4+].[Cl-]
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | benzyl 6-(1-hydroxyethyl)-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]-hept-2-en-7-one-2-carboxylate | OC(C)C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)OS(=O)(=O)C=1C(=CC=CC1)C | C23H23NO7S
